US08030346B2
Preparation of 2-(7-Hydroxy-4-methyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxamido)acetic Acid
Methyl 2-(7-hydroxy-4-methyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxamido)acetate. A mixture of methyl 2-aminoacetate hydrochloride (291 mg, 2317 μmol) and ethyl 7-hydroxy-4-methyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxylate (489 mg, 1931 μmol) in 15 mL dioxane was heated to 100° C. in a sealed tube and stirred for 15 hours. The mixture was cooled to room temperature, and the resulting suspension was added dropwise to 100 mL ice-water. The precipitate was collected by filtration, washed with H2O, and dried in vacuo. The solids were triturated with Et2O, collected by filtration, and dried to give a beige solid. Purification of the crude product by flash chromatography (Gradient from hexanes to hexanes/EtOAc=1:1) gave the title compound as a white solid (301 mg). MS (ESI) m/z: Calculated; 296.3: Observed; 297.1. 1H NMR (300 MHz, CDCl3) δ ppm 10.73 (1H, br. s), 7.78 (1H, d, J=5.3 Hz), 7.08 (1H, d, J=5.3 Hz), 4.24 (2H, br. s), 3.79 (3H, s), 3.69 (3H, s)

reactant | Methyl 2-(7-hydroxy-4-methyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxamido)acetate | OC=1C2=C(N(C(C1C(=O)NCC(=O)OC)=O)C)C=CS2 | C12H12N2O5S
reactant | methyl 2-aminoacetate hydrochloride | 2317 μmol, 291 mg | Cl.NCC(=O)OC
reactant | ethyl 7-hydroxy-4-methyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxylate | 1931 μmol, 489 mg | OC=1C2=C(N(C(C1C(=O)OCC)=O)C)C=CS2 | C11H11NO4S
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-(7-Hydroxy-4-methyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxamido)acetic Acid | 301 mg | OC=1C2=C(N(C(C1C(=O)NCC(=O)O)=O)C)C=CS2 | C11H10N2O5S
